US07884109B2
(R)-tert-Butyl acetyl(5,6,7,8-tetrahydroquinoxalin-5-yl)carbamate.
A solution containing 483 mg of (R)—N-(5,6,7,8-tetrahydroquinoxalin-5-yl)acetamide (J. Org. Chem. (2003), 68, 3546) in acetonitrile (20 mL) was treated with Boc2O (3 g) and DMAP (5 mg). The mixture was heated at 60° C. for 1.5 h and then concentrated in vacuo. Column chromatography (50% EtOAc/hexanes) provided 293 mg of the title compound.

reactant | (R)—N-(5,6,7,8-tetrahydroquinoxalin-5-yl)acetamide | 483 mg | N1=CC=NC=2[C@@H](CCCC12)NC(C)=O | C10H13N3O
reactant | Boc2O | 3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-tert-Butyl acetyl(5,6,7,8-tetrahydroquinoxalin-5-yl)carbamate | 293 mg | C(C)(=O)N(C(OC(C)(C)C)=O)[C@H]1C=2N=CC=NC2CCC1 | C15H21N3O3
